US05138069
Phenylmagnesium chloride (2M, 6.8 mmol, 1.5 eq.) was slowly added to a stirred solution of the aldehyde from Part A (3.00 g, 4.5 mmol, 1.0 eq.) in dioxane (25 mL) at 0° C. After 1 h, the reaction was quenched with methanol (5 mL), followed by water (25 mL). Trifluoroacetic acid (25 mL) was then added, and the mixture stirred at room temperature for 1 h. 10N NaOH was added to adjust the pH to 10 and the organic solvents removed in vacuo leaving solid triphenylmethanol and an aqueous phase behind. The triphenylmethanol was filtered and the aqueous was acidified to pH=3 with conc. HCl producing a precipitate. The solids were filtered, dried, and recrystallized from hexane/ethyl acetate yielding 532 mg of a white solid; m.p. 137.0°-145.0° C. NMR (DMSO-d6): δ7.77-7.46 (m, 4H); 7.46-7.30 (m, 5H); 6.94 (d, 2H, J=9 Hz); 6.76 (d, 2H, J=9 Hz); 6.37 (d, 1H, J=5 Hz); 5.97 (d, 1H, J=5 Hz); 5.09 (s, 2H); 2.25 (t, 2H, J=7 Hz); 1.34 (t of t, 2H, J=7,7 Hz); 1.17 (t of q, 2H, J=7,7H); 0.74 (t, 3H, J=7 Hz). Anal. calcd. for C28H27ClN6O.(H2O)0.5 : C, 66.20; H, 5.56; Cl, 6.98. Found: 66.12; H, 5.51; Cl, 7.25.

reactant | Phenylmagnesium chloride | 6.8 mmol, 2M, 1.5 eq. | C1(=CC=CC=C1)[Mg]Cl
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | triphenylmethanol | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
